US08022062B2
7-Chloro-6-(3-phenyl-benzothiophen-6-yl-methylamino)-2,3,4,5-tetrahydro-1H-benzo [d]azepine Hydrochloride
Use a procedure similar to General Procedure 1-1 to deprotect 7-chloro-6-(3-phenyl-benzothiophen-6-yl-methylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (234 mg, 0.45 mmol) in 7M ammonia in methanol (20 mL). Purify by reverse phase HPLC (Vydac C18 5×25 cm, 30% to 100% acetonitrile in 0.1% TFA-water solution). Recover the free base by SCX chromatography and form the salt according to General Procedure 2-3 to obtain the title compound (38 mg, 17%). HRMS (ES+) m/z: 419.1340 (M+H)+.

reactant | 7-chloro-6-(3-phenyl-benzothiophen-6-yl-methylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.45 mmol, 234 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)N(C)C1=CC2=C(C(=CS2)C2=CC=CC=C2)C=C1 | C27H22ClF3N2OS
solvent | ammonia | 7M | N | H3N
solvent | methanol | 20 mL | CO | CH4O
product | 7-Chloro-6-(3-phenyl-benzothiophen-6-yl-methylamino)-2,3,4,5-tetrahydro-1H-benzo [d]azepine Hydrochloride | 38 mg, 17% | Cl.ClC1=C(C2=C(CCNCC2)C=C1)N(C)C1=CC2=C(C(=CS2)C2=CC=CC=C2)C=C1 | InChI=1S/C25H23ClN2S.ClH/c1-28(25-20-12-14-27-13-11-18(20)7-10-23(25)26)19-8-9-21-22(16-29-24(21)15-19)17-5-3-2-4-6-17;/h2-10,15-16,27H,11-14H2,1H3;1H
